US03989749
To a stirred suspension of 4-(2-tetrahydropyranyloxy)-nonylamine (4.8 g., 0.02 mole) in water (75 ml.) is added just enough 10% hydrochloric acid to effect solution. Then potassium cyanate (1.62 g., 0.02 mole) is added and the reaction is heated gently on the steam bath for one hour, during which time an oil separates. The reaction mixture is cooled and extracted with ether (2 × 75 ml.). The ether is dried over sodium sulfate then concentrated in vacuo to give 4-hydroxynonylurea as a residual oil. The 4-hydroxynonylurea is taken up in pyridine (20 ml.) and acetic anhydride (2.0 g., 0.02 mole) is added. The reaction is stirred eight hours at room temperature then poured into water (100 ml.), and extracted with ether (2 × 100 ml.). The ether is washed with 5% hydrochloric acid, brine, and dried over sodium sulfate. Removal of the solvent in vacuo affords the subject compound as a residual oil.

reactant | 4-(2-tetrahydropyranyloxy)-nonylamine | 0.02 mole, 4.8 g | O1C(CCCC1)OC(CCCN)CCCCC | C14H29NO2
reactant | hydrochloric acid | Cl | ClH
reactant | potassium cyanate | 0.02 mole, 1.62 g | [O-]C#N.[K+]
solvent | water | 75 ml | O | H2O
product | 4-hydroxynonylurea | OC(CCCNC(=O)N)CCCCC | C10H22N2O2
